M8 (net16 VIN2 IB1 VDD) pmos4
M2 (net25 net25 VDD VDD) pmos4
M1 (IB1 net25 VDD VDD) pmos4
? Missing component
M4 (VOUT3 VIN1 IB1 VDD) pmos4
M3 (IB2 net16 VSS VSS) nmos4
M0 (net25 VIN1 IB2 VSS) nmos4
M11 (net16 net16 VSS VSS) nmos4
M7 (VOUT2 VIN2 IB2 VDD) nmos4
M6 (VOUT1 VIN1 IB2 VDD) nmos4
